US05665748
A mixture of (Z)-2-[3-[4-[2-(5-methyl-2-phenyl-4-oxazolyl)ethoxy]phenyl]-2-propenyl]-1,3-dioxane (5.0 g), palladium-carbon (5%, 0.1 g) and ethanol (100 ml) was subjected to catalytic hydrogenation at room 5 temperature under one atmospheric pressure. The catalyst was filtered off, and the filtrate was concentrated under reduced pressure. The concentrate was purified by means of a silica gel column chromatography. From the fractions eluted with hexane--ethyl acetate (1:1), 2-[3-[4-[2-(5-methyl-2-phenyl-4-oxazolyl)ethoxy]phenyl]propyl]-1,3-dioxane (4.8 g, 96%) was obtained.

reactant | (Z)-2-[3-[4-[2-(5-methyl-2-phenyl-4-oxazolyl)ethoxy]phenyl]-2-propenyl]-1,3-dioxane | 5.0 g | CC1=C(N=C(O1)C1=CC=CC=C1)CCOC1=CC=C(C=C1)\C=C/CC1OCCCO1 | C25H27NO4
catalyst | palladium-carbon | 0.1 g | [C].[Pd]
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2-[3-[4-[2-(5-methyl-2-phenyl-4-oxazolyl)ethoxy]phenyl]propyl]-1,3-dioxane | 4.8 g, 96% | CC1=C(N=C(O1)C1=CC=CC=C1)CCOC1=CC=C(C=C1)CCCC1OCCCO1 | C25H29NO4
